US06787560B2
At room temperature, 4N-hydrogen chloride/dioxane (35 mL) was added dropwise to a solution of the crude product (18.3 g) of N-tert-butoxycarbonyl-4-(2-bromo-5-methoxy-benzyl)piperidine in acetic acid (50 mL), and the resulting mixture was stirred at 60° C. for 1 hour. The solvent was distilled off and ethyl acetate was added to the residue to effect crystallization. The crystals were collected by filtration, washed with ethyl acetate and then dried to obtain 12.9 g (40.2 mmol) of 4-(2-bromo-5-methoxybenzyl)piperidine hydrochloride.

reactant | hydrogen chloride dioxane | 35 mL | Cl.O1CCOCC1
reactant | N-tert-butoxycarbonyl-4-(2-bromo-5-methoxy-benzyl)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CC1=C(C=CC(=C1)OC)Br | C18H26BrNO3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 4-(2-bromo-5-methoxybenzyl)piperidine hydrochloride | 40.2 mmol, 12.9 g | Cl.BrC1=C(CC2CCNCC2)C=C(C=C1)OC | InChI=1S/C13H18BrNO.ClH/c1-16-12-2-3-13(14)11(9-12)8-10-4-6-15-7-5-10;/h2-3,9-10,15H,4-8H2,1H3;1H
